US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 8 which is concerned with the preparation of starting materials, 3-chloro-4-fluoronitrobenzene was reacted with 2-toluenethiol. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated to give 2-chloro-4-nitrophenyl 2-tolyl sulphide in 31% yield.

reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-toluenethiol | C=1(C(=CC=CC1)S)C | C7H8S
product | 2-chloro-4-nitrophenyl 2-tolyl sulphide | 31% yield | C1(=C(C=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C | C13H10ClNO2S
